US08648089B2
1-(2-(methylthio)pyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole
Sodium hydride (60% in mineral oil, 40 mg, 0.98 mmol) was added to a mixture solution of 6-(3-nitrophenyl)-1H-indole (117 mg, 0.49 mmol) in DMF (2 mL) at room temperature. 10 minutes later, 4-chloro-2-(methylthio)pyrimidine (68 μL, 0.59 mmol) was added. After stirring at room temperature for 30 minutes, water was added. Thus produced solid was filtered and dried. The target compound (102 mg) was obtained as white solid.

reactant | Sodium hydride | 0.98 mmol, 40 mg | [H-].[Na+]
reactant | 6-(3-nitrophenyl)-1H-indole | 0.49 mmol, 117 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C2C=CNC2=C1 | C14H10N2O2
reactant | 4-chloro-2-(methylthio)pyrimidine | 0.59 mmol, 68 μL | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(2-(methylthio)pyrimidin-4-yl)-6-(3-nitrophenyl)-1H-indole | 102 mg | CSC1=NC=CC(=N1)N1C=CC2=CC=C(C=C12)C1=CC(=CC=C1)[N+](=O)[O-] | C19H14N4O2S
